US04895849
Synthesis of dl-5-chloro-6-ethyl-4-(α-ethyl-4-acetonyloxybenzyl)aminopyrimidine (Compound No. 122)
To a solution of 3.0 g of dl-5-chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine dissolved in 30 ml of N,N-dimethylformamide were added 1.2 g of chloroacetone and 1.7 g of anhydrous potassium carbonate, and the mixture was stirred at 80° C. for 8 hours. After completion of the reaction, the reaction mixture was charged into water and the separated oily product was extracted with ethyl acetate. The extract was washed with water, dried with anhydrous sodium sulfate, and then ethyl acetate was distilled off under reduced pressure. The oily product obtained was isolated by column chromatography (Wako Gel C-200, trade name, eluted with toluene: ethyl acetate=7:1) to give 1.3 g of the desired product as pale yellow liquid.

reactant | dl-5 chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine | 3.0 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | chloroacetone | 1.2 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dl-5 chloro-6-ethyl-4-(α-ethyl-4-acetonyloxybenzyl)aminopyrimidine | 1.3 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OCC(=O)C)CC)CC | InChI=1S/C18H22ClN3O2.C18H34N4O2/c1-4-14-10-17(22-18(19)20-14)21-16(5-2)13-6-8-15(9-7-13)24-11-12(3)23;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h6-10,16H,4-5,11H2,1-3H3,(H,20,21,22);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
